US07164014B2
13.11 g (50 mmol) triphenylphosphine, 6.99 g (47.5 mmol) phthalimide and 17.77 g (50 mmol) N6-benzoyl-2′-deoxyadenosine were stirred in 400 mL dry THF, and added 9.84 mL (50 mmol) of diisopropyl azodicarboxylate under a nitrogen atmosphere. After stirring in an ice-water bath for 2 h and at the ambient temperature for 4 h, the reaction mixture was concentrated and the residue was added 100 mL dichloromethane. The precipitates thus formed were removed by filtration and the filtrate was concentrated and flashed through a silica gel column with 2:1 dichloromethane-THF and 19:1 dichloromethane-methanol to give 7.1 g of 5′-phthalimido-N6-benzoyl-2′-deoxyadenosine.

reactant | triphenylphosphine | 50 mmol, 13.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 47.5 mmol, 6.99 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | N6-benzoyl-2′-deoxyadenosine | 50 mmol, 17.77 g | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H17N5O4
reactant | diisopropyl azodicarboxylate | 50 mmol, 9.84 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 5′-phthalimido-N6-benzoyl-2′-deoxyadenosine | 7.1 g | C1(C=2C(C(N1C([C@@H]1[C@H](C[C@@H](O1)N1C=NC=3C(NC(C4=CC=CC=C4)=O)=NC=NC13)O)O)=O)=CC=CC2)=O | C25H20N6O6
